US07893257B2
4-(4-Carboxy-benzyl)-morpholin-4-ium chloride
A 200 mL round-bottom flask was charged with 4-morpholin-4-ylmethyl-benzoic acid methyl ester (4.0 g, 0.017 mol, 1.0 eq). A solution of NaOH (2.0 g, 0.051 mol, 3.0 eq) in water was added and the reaction mixture was stirred overnight at room temperature. NaCl (5.0 g) and HCl (6.0 M in water, 17 mL, 6.0 eq) were then added. The reaction mixture was cooled to 0° C. and then stirred for 1 hr. The solid was collected by filtration, washed with pentane and dried at 50° C. under vacuum to yield the title compound as a white solid.

reactant | 4-morpholin-4-ylmethyl-benzoic acid methyl ester | 0.017 mol, 4.0 g, 1.0 eq | COC(C1=CC=C(C=C1)CN1CCOCC1)=O | C13H17NO3
reactant | NaOH | 0.051 mol, 2.0 g, 3.0 eq | [OH-].[Na+]
reactant | NaCl | 5.0 g | [Na+].[Cl-]
reactant | HCl | 6.0 M, 17 mL, 6.0 eq | Cl | ClH
solvent | water | O | H2O
product | 4-(4-Carboxy-benzyl)-morpholin-4-ium chloride | [Cl-].C(=O)(O)C1=CC=C(C[NH+]2CCOCC2)C=C1 | InChI=1S/C12H15NO3.ClH/c14-12(15)11-3-1-10(2-4-11)9-13-5-7-16-8-6-13;/h1-4H,5-9H2,(H,14,15);1H
